US08119663B2
(2,2-Dimethylmorpholin-4-yl){3-(3-methyl-1,2,4-oxadiazol-5-yl)-5-[4-(trifluoromethyl)phenyl]-piperidin-1-yl}methanone [racemic cis isomer]
250 mg (0.410 mmol, 68% pure) of 1-[(2,2-dimethylmorpholin-4-yl)carbonyl]-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylic acid and 33.4 mg (0.451 mmol) of N′-hydroxyethanimidamide were reacted according to the General Method 2. Yield: 117 mg (62% of theory).

reactant | 1-[(2,2-dimethylmorpholin-4-yl)carbonyl]-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylic acid | 0.410 mmol, 250 mg | CC1(CN(CCO1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O)C | C20H25F3N2O4
reactant | N′-hydroxyethanimidamide | 0.451 mmol, 33.4 mg | ON=C(C)N | C2H6N2O
product | (2,2-Dimethylmorpholin-4-yl){3-(3-methyl-1,2,4-oxadiazol-5-yl)-5-[4-(trifluoromethyl)phenyl]-piperidin-1-yl}methanone | CC1(CN(CCO1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)C(F)(F)F)C1=NC(=NO1)C)C | C22H27F3N4O3
